US07030139B2
8A: N,N-diethyl-4-(methylamino)-3-nitrobenzamide.
Following general procedure 2B: A mixture of N,N-diethyl-4-fluoro-3-nitrobenzamide (0.125 g, 0.521 mmol), methylamine hydrochloride (0.035 g, 0.521 mmol) in 80% aq. EtOH (3 mL) was heated at 85° C. for 4 hours. Usual work-up provided the title compound (0.130 g, 100%) which was used without further purification. MS (ESI) (M+H)+=252.

reactant | N,N-diethyl-4-fluoro-3-nitrobenzamide | 0.521 mmol, 0.125 g | C(C)N(C(C1=CC(=C(C=C1)F)[N+](=O)[O-])=O)CC | C11H13FN2O3
reactant | methylamine hydrochloride | 0.521 mmol, 0.035 g | Cl.CN
solvent | EtOH | 3 mL | CCO | C2H6O
product | N,N-diethyl-4-(methylamino)-3-nitrobenzamide | 0.130 g, 100% | C(C)N(C(C1=CC(=C(C=C1)NC)[N+](=O)[O-])=O)CC | C12H17N3O3
